US07589232B2
Step a) Formation of N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)hexanamide
The titled compound was prepared following the procedure B using 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride and hexanoyl chloride as a colorless oil (88%). 1H NMR (CDCl3, 300 MHz) δ 7.70 (d, J=2.3 Hz, 1H), 7.44 (m, 4H), 7.16 (m, 4H), 7.05 (dd, J=8.6, 2.3 Hz, 1H), 6.91 (d, J=8.6 Hz, 1H) 4.88 (s, 2H), 2.63 (t, J=7.7 Hz, 2H), 2.06 (t, J=7.5 Hz. 2H), 1.75 (s, 6H), 1.61 (m, 4H), 1.36 (m, 2H), 1.23 (m, 4H), 0.94 (t, J=7.3 Hz, 3H), 0.85 (t, J=6.8 Hz, 3H). M+ (ESI): 538.4 HPLC, Rt: 5.95 min (Purity: 98.2%).

reactant | 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1
reactant | hexanoyl chloride | C(CCCCC)(=O)Cl | C6H11ClO
product | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)hexanamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCCCC)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C35H39NO4
